US20010027196A1
A stirred suspension of 457 mg (1,37 mmol) 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine, 0.25 ml (2.77 mmol) methyl acrylate, 96 mg (0.14 mmol) bis(triphenylphosphine)palladium(II) chloride and 0.67 g (2.06 mmol) cesium carbonate in 5 ml dioxane under argon in a sealed tube was heated at 100° C. for 16 h. After cooling to room temperature, the mixture was diluted with 50 ml ethyl acetate, filtered, and the filtrate was concentrated in vacuo. Flash chromatography (1/2-1/1 ethyl acetate/hexane) followed by trituration in ether/pentane afforded 194 mg (49%) (E)-3-(2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-acrylic acid methyl ester as an off-white crystalline solid. ES-MS m/e (%): 292 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-ylamine | 1,37 mmol, 457 mg | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
reactant | methyl acrylate | 2.77 mmol, 0.25 ml | C(C=C)(=O)OC | C4H6O2
reactant | cesium carbonate | 2.06 mmol, 0.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.14 mmol, 96 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-3-(2-amino-4-furan-2-yl-6-methylsulfanyl-pyrimidin-5-yl)-acrylic acid methyl ester | 194 mg, 49% | COC(\C=C\C=1C(=NC(=NC1SC)N)C=1OC=CC1)=O | C13H13N3O3S
